US05789623
Preparation of 2-[bis-(3-fluorophenyl)phosphino]-1(2-hydroxyphenyl)naphthalene
8.5 g (30 mmol) of 5-chloro-5H-benzo[c]naphth[1,2-e][1,2]-oxa-phosphorine in 50 ml of anhydrous o-xylene at 80° C. are introduced, in an argon atmosphere with stirring, and a solution of 70 mmol of 3-fluorophenylmagnesium bromide in 80 ml of o-xylene is added dropwise. The temperature increases in the course of this from 80° to 90° C. The mixture is then stirred for 1 hour at 110° C. The mixture is cooled to room temperature and 100 ml of water are added. The mixture is neutralized with dilute hydrochloric acid, the organic phase is separated off, dried with sodium sulfate and concentrated under reduced pressure. 19.0 g of colorless oil are obtained.

reactant | 5-chloro-5H-benzo[c]naphth[1,2-e][1,2]-oxa-phosphorine | 30 mmol, 8.5 g | ClP1OC2=C(C3=C1C=CC=C3)C3=CC=CC=C3C=C2 | C16H10ClOP
reactant | 3-fluorophenylmagnesium bromide | 70 mmol | FC=1C=C(C=CC1)[Mg]Br
reactant | water | 100 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | o-xylene | 50 ml | CC=1C=CC=CC1C | C8H10
solvent | o-xylene | 80 ml | CC=1C=CC=CC1C | C8H10
product | 2-[bis-(3-fluorophenyl)phosphino]-1(2-hydroxyphenyl)naphthalene | 19.0 g | FC=1C=C(C=CC1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC=C1)O)C1=CC(=CC=C1)F | C28H19F2OP
